US04771072
2-Bromo-3,4,5-trimethoxybenzaldehyde dimethylacetal, 3-ethoxy-4-methoxybenzaldehyde and dimethyl acetylenedicarboxylate are treated in the same manner as described in Example 1, whereby 1-(3-ethoxy-4-methoxyphenyl)-2,3-bis(methoxycarbonyl)-4-hydroxy-6,7,8-trimethoxynaphthalene is obtained as colorless needles. Yield: 65%

reactant | 2-Bromo-3,4,5-trimethoxybenzaldehyde dimethylacetal | COC(C1=C(C(=C(C(=C1)OC)OC)OC)Br)OC | C12H17BrO5
reactant | 3-ethoxy-4-methoxybenzaldehyde | C(C)OC=1C=C(C=O)C=CC1OC | C10H12O3
reactant | dimethyl acetylenedicarboxylate | C(#CC(=O)OC)C(=O)OC | C6H6O4
product | 1-(3-ethoxy-4-methoxyphenyl)-2,3-bis(methoxycarbonyl)-4-hydroxy-6,7,8-trimethoxynaphthalene | Yield: 65% | C(C)OC=1C=C(C=CC1OC)C1=C(C(=C(C2=CC(=C(C(=C12)OC)OC)OC)O)C(=O)OC)C(=O)OC | C26H28O10
